US04533661
Ethoxy(4-phenylbutyl)phosphinyl chloride is reacted with (S)-3-amino-2-oxohexahydro-1H-azepine-1-acetic acid, phenylmethyl ester according to the procedure of Example 2(e) to give (S)-hexahydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester.

reactant | Ethoxy(4-phenylbutyl)phosphinyl chloride | C(C)OP(=O)(CCCCC1=CC=CC=C1)Cl | C12H18ClO2P
reactant | (S)-3-amino-2-oxohexahydro-1H-azepine-1-acetic acid, phenylmethyl ester | N[C@@H]1C(N(CCCC1)CC(=O)OCC1=CC=CC=C1)=O | C15H20N2O3
product | (S)-hexahydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)N[C@@H]1C(N(CCCC1)CC(=O)OCC1=CC=CC=C1)=O | C27H37N2O5P
